data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2439,2707,[CH3:17][NH:18][C:19](=[O:20])[C:21](=[O+:22][C-:23]([C:24]([CH3:25])=[O:26])[C:27](=[O:28])[O:29][CH3:30])[C:31](=[O:32])[NH:33][CH3:34].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH2:13][CH2:14][CH:15]1[CH2:16]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([CH:12]3[CH2:13][CH2:14][CH:15]1[CH2:16]3)[C:23]([C:24]([CH3:25])=[O:26])([C:27](=[O:28])[O:29][CH3:30])[O:22][C:21]2([C:19]([NH:18][CH3:17])=[O:20])[C:31](=[O:32])[NH:33][CH3:34],water,298.15,21.20446509124052,-26.75112419363288
1109,1207,[CH3:15][C-:16]([C:17]#[N:18])[NH+:19]=[CH:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:16]([CH3:15])([C:17]#[N:18])[NH:19][CH:20]3[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,12.245726902344463,-41.20104049405985
4952,5638,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][c:16]1[o:17][c:18](=[O:19])[c-:20](-[c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[o+:27]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:20]1([c:21]3[cH:22][cH:23][cH:24][cH:25][cH:26]3)[C:18](=[O:19])[O:17][C:16]2([CH3:15])[O:27]1,water,298.15,19.57340151515534,-4.415837135951712
4134,4735,[CH3:10][c-:11]1[nH+:12][c:13](-[c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[o:20][c:21]1=[O:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:11]2([CH3:10])[NH:12][C:13]1([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[O:20][C:21]2=[O:22],water,298.15,26.74075825224489,-1.4233627237273567
472,517,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[N+:19]([CH3:20])[O-:21].[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:17]#[N:18])[N:19]([CH3:20])[O:21]1,water,298.15,35.349391325928586,4.95194031769337
1758,1947,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][CH:12]([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[CH:24]=[O+:25][CH-:26][C:27]#[N:28]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([CH:12]([C:13]([CH3:14])=[O:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[CH:24]([C:22]([O:21][CH3:20])=[O:23])[O:25][CH:26]2[C:27]#[N:28],water,298.15,6.617418899763282,-85.17322183196056
4358,4979,[CH3:10][O:11][C:12](=[O:13])[C-:14]([CH3:15])[O+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([CH3:15])[O:16][CH:17]1[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,7.83041968012627,-39.31109537189261
3810,4362,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]#[N+:16][N-:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])=[N:16][N:17]2[C:18]([CH3:19])=[O:20],water,298.15,15.152451994446183,-30.01546831404293
2887,3208,[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[CH2:22][CH2:23][CH2:24][CH2:25]1.[CH3:26][NH:27][C:28](=[O:29])[C-:30]([O+:31]=[C:32]([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1)[C:45](=[O:46])[O:47][CH3:48]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[CH2:22][CH2:23][CH2:24][CH2:25]1)[C:30]([C:28]([NH:27][CH3:26])=[O:29])([C:45](=[O:46])[O:47][CH3:48])[O:31][C:32]2([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1,water,298.15,22.002316463977607,-45.08502047240415
2036,2259,[CH3:13][C:14](=[O:15])[c:16]1[nH+:17][c-:18](-[c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[c:25](=[O:26])[o:27]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:18]1([c:19]3[cH:20][cH:21][cH:22][cH:23][cH:24]3)[NH:17][C:16]2([C:14]([CH3:13])=[O:15])[O:27][C:25]1=[O:26],water,298.15,31.80966576630429,9.764856452095652
3021,3377,[CH3:6][C:7]([C:8]#[N:9])=[O+:10][C-:11]([CH3:12])[CH3:13].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:11]([CH3:12])([CH3:13])[O:10][C:7]1([CH3:6])[C:8]#[N:9],water,298.15,38.31669912124988,2.9131215353599096
